US06177422B1
3-(Chloroacetylamino)-4-hydroxy-benzaldehyde (2.4 g, 13.2 mmol) and potassium carbonate (9.1 g, 66.1 mmol) are stirred at room temperature in 50 mL of acetonitrile for 12 hours. The acetonitrile is evaporated and the residue is taken up in 50 mL of water. After standing at room temperature for 10 minutes, the precipitate is collected by filtration and recrystallized from ethyl acetate to give 1.4 g (60% yield) of 3-oxo-3,4-dihydro-2H-benzo[1,4]oxazine-6-carbaldehyde; mp 220-222° C.

reactant | 3-(Chloroacetylamino)-4-hydroxy-benzaldehyde | 13.2 mmol, 2.4 g | ClCC(=O)NC=1C=C(C=O)C=CC1O | C9H8ClNO3
reactant | potassium carbonate | 66.1 mmol, 9.1 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetonitrile | 50 mL | C(C)#N | C2H3N
product | 3-oxo-3,4-dihydro-2H-benzo[1,4]oxazine-6-carbaldehyde | 1.4 g, 60% yield | O=C1COC2=C(N1)C=C(C=C2)C=O | C9H7NO3
